US08378104B2
Step A: methyl 4-fluorothieno[2,3-c]pyridine-2-carboxylate
To a cooled (0° C.) solution of 3,5-difluoro-4-formylpyridine (1.00 g, 6.99 mmol) in THF (12.3 mL) was added mercaptoacetic acid methyl ester (625 μL, 6.99 mmol). The reaction stirred 1 h at 0° C. and 1 h at room temperature, and then cesium carbonate (2.28 g, 6.99 mmol) was added. The reaction then stirred a further 18 h at room temperature. The reaction mixture was then partitioned between ethyl acetate (50 mL) and brine (50 mL). The layers were separated and the organic fraction was washed with water (1×50 mL) and brine (1×25 mL), then dried over sodium sulfate, filtered, and concentrated. Purification by ISCO chromatography (20 to 40% ethyl acetate:hexanes) afforded 942 mg (64%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 9.23-9.29 (m, 1 H), 8.56 (dd, J=2.0, 0.5 Hz, 1 H), 8.25 (d, J=0.8 Hz, 1 H), 3.94 (s, 3 H); MS (ESI): 212.09 [M+H]+; HPLC tR=3.17 min (ZQ3, polar—4 min).

reactant | 3,5-difluoro-4-formylpyridine | 6.99 mmol, 1.00 g | FC=1C=NC=C(C1C=O)F | C6H3F2NO
reactant | mercaptoacetic acid methyl ester | 6.99 mmol, 625 μL | COC(CS)=O | C3H6O2S
reactant | cesium carbonate | 6.99 mmol, 2.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 12.3 mL | C1CCOC1 | C4H8O
product | methyl 4-fluorothieno[2,3-c]pyridine-2-carboxylate | 942 mg, 64% | FC1=C2C(=CN=C1)SC(=C2)C(=O)OC | C9H6FNO2S
